US07153873B2
1-acetyl-2-cyclohexyl-3-cyclohexylamino-imidazo[1,2-a]pyridin-1-ium chloride
Example 23 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) cyclohexane carbaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-pyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1 | C5H6N2
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | cyclohexane carbaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C1(CCCCC1)C=O | C7H12O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-2-cyclohexyl-3-cyclohexylamino-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC=C2)NC2CCCCC2)C2CCCCC2 | InChI=1S/C21H30N3O.ClH/c1-16(25)24-19-14-8-9-15-23(19)21(22-18-12-6-3-7-13-18)20(24)17-10-4-2-5-11-17;/h8-9,14-15,17-18,22H,2-7,10-13H2,1H3;1H/q+1;/p-1
